US07105518B2
(a) 6- (4-Bromophenyl)-2-mercapto-thiopyran-4-one
To a stirred solution of LDA (20 mL, 40 mmol) in 40 mL anhydrous THF under an atmosphere of nitrogen was added slowly a solution of 1-(4-Bromophenyl)-butane-1,3-dione (4.84 g, 20 mmol) dissolved in THF (30 mL). After addition was complete the mixture was allowed to warm slowly to ambient temperature and stir for 10 minutes. The solution was re-cooled to −78° C. for the addition of a solution of carbon disulfide (1.2 mL, 20 mmol) in THF (20 mL). This temperature was maintained for 2 hours, before warming slowly to ambient temperature and stirred for 18 hours. Cold water (150 mL) was added and mixture was heated to 60° C. with good stirring for 3 hours. The volatiles were removed in vacuo and the aqueous solution was washed with diethyl ether (2×100 mL). The aqueous solution was acidified to pH 1 with 2N HCl, and the orange precipitate was filtered from the acid, washed with water, and dried by vacuum desiccation. Orange solid (5.07 g, 85%); LCMS m/z 299, 301 ([M+1]+) 298, 300 ([M−1]−), 1H-NMR (D6-DMSO): 7.10 (s, 1H, H-3), 7.36 (s, 1H, H-5), 7.69 (d, 2H, J=8.6 Hz, Arom), 7.76 (d, 2H, J=8.6 Hz, Arom); infrared spectrum (cm−1): 815, 950, 1008, 1072, 1202, 1451, 1364, 1451, 1487, 1508, 1584.

reactant | LDA | 40 mmol, 20 mL | [Li+].CC(C)[N-]C(C)C
reactant | 1-(4-Bromophenyl)-butane-1,3-dione | 20 mmol, 4.84 g | BrC1=CC=C(C=C1)C(CC(C)=O)=O | C10H9BrO2
reactant | carbon disulfide | 20 mmol, 1.2 mL | C(=S)=S | CS2
reactant | water | 150 mL | O | H2O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 6- (4-Bromophenyl)-2-mercapto-thiopyran-4-one | BrC1=CC=C(C=C1)C1=CC(C=C(S1)S)=O | C11H7BrOS2
